2106-07-29 07:50:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - Surgery: no surgical intervention at this time, PTC drain for cooling
   than open
   - IR to place PTC for drainage
   - Low BP resolved with decrease in propofol
   - consider extubation post-IR procedure
   Allergies:
   Oxacillin
   Unknown;
   Aspirin
   Unknown;
   Ibuprofen
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   Unknown;
   Famotidine
   Unknown;
   Amoxicillin
   Unknown;
   Lansoprazole
   Unknown;
   Nsaids
   Unknown;
   Statins-Hmg-Coa Reductase Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2106-7-29**] 03:50 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-7-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-7-29**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 62 (56 - 72) bpm
   BP: 105/56(67) {85/45(57) - 136/74(84)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,419 mL
                                                                    266 mL
   PO:
             TF:
   IVF:
                                                                  2,419 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,419 mL
                                                                    266 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 46
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/54/113/24/6
   Ve: 6.8 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Obese, NAD
   Mild scleral icterus.  Pupils equal and reactive.  Dry mucous
   membranes.
   Neck supple, no thyroid enlargement or cervical adenopathy
   S1, S2, RRR, no murmur.
   Lungs clear b/l without crackles.  Good air movement.  Has episodes of
   apnea associated with desaturations.
   Abd:  +BS, soft and not tender.  ?? mass in RUQ, but not tender to
   palpation throughout.  No rebound or guarding.  No [**Doctor Last Name 1850**] sign.
   Erythematous abdominal scar with some scabs.
   Neuro:  Oriented to self and sister as well as able to say where he
   lives.  Answers questions appropriately but is very tired.  Strength
   [**6-15**] b/l in UE and LE.
   Ext:  s/p amputation of toes of right foot.  Chronic venous stasis
   changes in LE b/l.  Difficult to appreciate distal pulses but feet are
   warm without any ulcers.  No LE edema
   Labs / Radiology
   231 K/uL
   8.5 g/dL
   71 mg/dL
   5.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   44 mg/dL
   101 mEq/L
   141 mEq/L
   28.3 %
   5.6 K/uL
        [image002.jpg]
                             [**2106-7-28**]  08:37 AM
                             [**2106-7-28**]  09:23 AM
                             [**2106-7-29**]  05:21 AM
   WBC
   8.2
   5.6
   Hct
   30.7
   28.3
   Plt
   218
   231
   Cr
   4.5
   5.1
   TCO2
   34
   Glucose
   123
   71
   Other labs: PT / PTT / INR:15.0/30.7/1.3, ALT / AST:25/19, Alk Phos / T
   Bili:870/1.2, Amylase / Lipase:28/43, Differential-Neuts:84.9 %,
   Lymph:9.8 %, Mono:3.2 %, Eos:1.6 %, Lactic Acid:0.5 mmol/L, Albumin:2.3
   g/dL, LDH:124 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   54yo man with DM and ESRD on HD presenting with likely cholangitis in
   setting of recent percutaneous tube for cholecystitis.
   # Sepsis, likely from cholangitis vs fluid collection:
   Currently vital signs are stable and fevers resolved after vanc and
   ceftazidime.  Prior episodes of hypotension were responsive to fluid
   boluses; not requiring pressors.  Sources of sepsis include cholangitis
   given obstructive pattern of LFTs, recurrent cholecystitis, or infected
   fluid collection as result of previous cholecystitis and drain
   placement.  Pt also has a LUL infiltrate on CXR, ?aspiration v HCAP.
   Had positive blood cxs are OSH positive for GNRs.
   - follow up OSH bcxs, bcxs here
   - check U/A, urine culture if makes urine
   - IVF boluses prn, follow O2 sats, give with caution due to renal
   failure
   - Hold home metoprolol
   - continue Vanc to cover hospital acquired infection; would favor zosyn
   for coverage of cholangitis and GNR bacteremia, but unable to confirm
   nature of his reaction to amoxicillin and he did defervesce with
   ceftazidime, so will continue that for present
   - add flagyl for better coverage of GI bugs
   - ERCP today, ERCP following, appreciate recs
   - D/W surgery v. IR regarding sampling fluid collection for culture v.
   OR for wash out depending on final CT read; Surgery following,
   appreciate recs.
   - monitor LFTs, lipase
   # ESRD on HD:  Pt would be due for HD today, although his fluid status
   and electrolytes are all reasonably good.
   - spoke with renal fellow; will likely due HD tomorrow
   - continue Aranesp, Nephrocaps, Phoslo
   - vanc and ceftazidime are eliminated with HD; will dose per protocol
   # h/o MRSA abdominal wound infection:
   Appears to be healing, but will continue to cover with vancomycin for
   now x 24-48 hours pending more final culture data.
   - wound care consult
   # DM2:  Currently diet controlled
   - FS QID, ISS
   # HTN:
   - hold home metoprolol for now
   # Episodes of apnea:
   [**Month (only) 51**] have undiagnosed sleep apnea, but also unclear if he had narcotics
   in the ED that may be contributing.
   - hold off on narcotics
   - may need CPAP at night
   # Depression/anxiety:
   - continue citalopram
   PPx:  heparin sq, pneumoboots, home PPI
   FEN:  NPO for ERCP and possible drainage of fluid collections; IVF
   boluses prn; monitor replete electrolytes
   Access:  2PIVs (18 and 20 gauge), AV fistula in left arm
   CODE:  FULL (not confirmed)
   Communication:  sister [**Name (NI) 251**] is HCP [**Telephone/Fax (1) 8235**] (attempted to
   contact, no answer)/ [**Hospital 3163**] Healthcare [**Telephone/Fax (1) 8236**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2106-7-28**] 08:25 AM
   20 Gauge - [**2106-7-28**] 08:26 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-07-30 07:46:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
 ERCP - At [**2106-7-29**] 08:50 AM
   DONE ON [**7-28**] WITH STENT PLACEMENT
 INVASIVE VENTILATION - STOP [**2106-7-29**] 08:47 PM
   - CT-guided fluid aspiration, tubes draining pus
   - plan for future cholecystectomy
   - HD
   - extubation
   - bipap at bedside
   Allergies:
   Oxacillin
   Unknown;
   Aspirin
   Unknown;
   Ibuprofen
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   Unknown;
   Famotidine
   Unknown;
   Amoxicillin
   Unknown;
   Lansoprazole
   Unknown;
   Nsaids
   Unknown;
   Statins-Hmg-Coa Reductase Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2106-7-29**] 05:28 PM
   Ceftazidime - [**2106-7-29**] 05:41 PM
   Metronidazole - [**2106-7-30**] 03:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-7-29**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2106-7-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-7-30**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.4
   HR: 75 (57 - 78) bpm
   BP: 109/46(60) {81/35(48) - 118/62(73)} mmHg
   RR: 26 (8 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.4 kg (admission): 95.5 kg
   Height: 69 Inch
             Total In:
                                                                  1,920 mL
                                                                    177 mL
   PO:
             TF:
   IVF:
                                                                  1,920 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,068 mL
                                                                     50 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                     68 mL
                                                                     50 mL
   Balance:
                                                                    852 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 400 (0 - 420) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.43/46/91/27/4
   Ve: 6.9 L/min
   PaO2 / FiO2: 182
   Physical Examination
   GEN: Obese, intubated, sedated, minimally responsive
   CV: S1, S2, RRR, no murmur.
   CHEST clear b/l without crackles.  Good air movement.  Has episodes of
   apnea associated with desaturations.
   ABD:  +BS, soft, NT/ND  Erythematous abdominal scar with some scabs.
   Ext:  s/p amputation of toes of right foot.  Chronic venous stasis
   changes in LE b/l.  Difficult to appreciate distal pulses but feet are
   warm without any ulcers.  No LE edema
   Labs / Radiology
   240 K/uL
   8.8 g/dL
   86 mg/dL
   3.0 mg/dL
   27 mEq/L
   4.0 mEq/L
   21 mg/dL
   104 mEq/L
   143 mEq/L
   29.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2106-7-28**]  08:37 AM
                             [**2106-7-28**]  09:23 AM
                             [**2106-7-29**]  05:21 AM
                             [**2106-7-29**]  06:30 PM
                             [**2106-7-29**]  06:55 PM
                             [**2106-7-30**]  03:05 AM
   WBC
   8.2
   5.6
   6.5
   Hct
   30.7
   28.3
   29.2
   Plt
   [**Telephone/Fax (3) 8275**]
   Cr
   4.5
   5.1
   3.0
   TCO2
   34
   32
   32
   Glucose
   123
   71
   86
   Other labs: PT / PTT / INR:14.6/33.0/1.3, ALT / AST:21/23, Alk Phos / T
   Bili:803/1.0, Amylase / Lipase:28/43, Differential-Neuts:84.9 %,
   Lymph:9.8 %, Mono:3.2 %, Eos:1.6 %, Lactic Acid:0.7 mmol/L, Albumin:2.3
   g/dL, LDH:159 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 BACTEREMIA
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE II
 CHOLANGITIS
   54M w DM2, ESRD on HD, who originally p/w F/C, transferred to the ICU
   for possible sepsis, intubated in the setting of ERCP.
   # Sepsis: [**3-15**] cholangitis/cholecystitis vs ?aspiration v HCAP.  Had
   positive blood cxs are OSH positive for GNRs.
   - continue vanc/ceftazidime/metronidazole
   - IR guided PTC today
   - f/u surgical recs
   - follow up OSH bcxs, bcxs here
   - check U/A, urine culture if makes urine
   - hold home metoprolol
   - monitor LFTs
   # ESRD on HD:  MWF
   - HD per renal
   - continue Aranesp, Nephrocaps, Phoslo
   - vanc/ceftazidime per HD protocol
   # h/o MRSA abdominal wound infection:
   - on vancomycin
   - wound care consult
   # DM2:  Currently diet controlled
   - FS QID, ISS
   # HTN:
   - hold home metoprolol for now
   # Episodes of apnea:
   [**Month (only) 51**] have undiagnosed sleep apnea, but also unclear if he had narcotics
   in the ED that may be contributing.
   - hold off on narcotics
   - may need CPAP at night
   # Depression/anxiety:
   - continue citalopram
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2106-7-28**] 08:25 AM
   20 Gauge - [**2106-7-28**] 08:26 AM
   AV fistula in left arm
   Prophylaxis:
   DVT: heparin SC, pneumoboots
   Stress ulcer: pantoprazole IV
   Communication:  Comments:   sister [**Name (NI) 251**] is HCP [**Telephone/Fax (1) 8235**]
   Code status: Full code